US06855715B1
3-Methoxyindole-6-carboxylic acid
To a solution of methyl 1-acetyl-3-methoxyindole-6-carboxylate (74 mg, 0.3 mmol) in THF (10 ml) and water (2 ml) was added lithium hydroxide hydrate (63 mg, 1.5 mmol). The reaction mixture was warmed to 50° C. and stirred for 3 h. The THF was removed under reduced pressure and the pH of the aqueous phase adjusted to 3. Extraction of the aqueous layer with ethyl acetate, drying and concentration gave the acid (50 mg, 87%);

reactant | methyl 1-acetyl-3-methoxyindole-6-carboxylate | 0.3 mmol, 74 mg | C(C)(=O)N1C=C(C2=CC=C(C=C12)C(=O)OC)OC | C13H13NO4
reactant | lithium hydroxide hydrate | 1.5 mmol, 63 mg | O.[OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 3-Methoxyindole-6-carboxylic acid | 50 mg, 87% | COC1=CNC2=CC(=CC=C12)C(=O)O | C10H9NO3
